US08026234B2
Compound 161: 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-(piperidin-4-yl)azetidin-3-yl)benzamide
To a solution of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid (100 mg, 0.22 mmol) in DMF (1 mL) was added tert-butyl 4-(3-aminoazetidin-1-yl)piperidine-1-carboxylate (72 mg, 0.25 mmol), HATU (125 mg, 0.33 mmol), and DIEA (80 μL, 0.44 mmol). The reaction mixture was stirred for 1 h. It was then poured into 100 mL of rapidly stirring water. A white solid forms and was filtered, washed with water and dried. This solid was treated with TFA in DCM (3 mL 1:1) for 2 days. The solvent was then removed, and the product purified by reverse phase HPLC, free based and lyophilized to yield a white solid (17.8 mg, 14% yield 1H NMR (400 MHz, DMSO-d6) δ ppm 1.02 (br. s., 2H) 1.50-1.79 (m, 9H) 1.93 (br. s., 2H) 2.07 (br. s., 1H) 2.35-2.44 (m, 2H) 2.85-3.00 (m, 4H) 3.52 (t, J=7.20 Hz, 2H) 3.94 (s, 3H) 4.05 (t, J=14.02 Hz, 2H) 4.37-4.50 (m, 1H) 4.68-4.84 (m, 1H) 7.47-7.52 (m, 2H) 7.98 (s, 1H) 8.26 (s, 1H) 8.29 (d, 1H) 8.61 (d, J=6.57 Hz, 1H). [M+H] calc'd for C29H38F2N8O3, 585. found 585.

reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | 0.22 mmol, 100 mg | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | tert-butyl 4-(3-aminoazetidin-1-yl)piperidine-1-carboxylate | 0.25 mmol, 72 mg | NC1CN(C1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H25N3O2
reactant | HATU | 0.33 mmol, 125 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.44 mmol, 80 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-N-(1-(piperidin-4-yl)azetidin-3-yl)benzamide | 14% yield | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CN(C1)C1CCNCC1)C=C2)OC | C29H38F2N8O3
